US04287200
In 2 ml of dimethylsulfoxide are dissolved 200 mg of 2-bromo-3-[4-(4-chlorobenzyloxy)phenyl]propionic acid and 100 mg of thiourea and the solution is heated at 110° C. for 3 hours. Then, after 0.5 ml of water is added, the solution is further heated for 5 hours. Then, 10 ml of water is added and the resulting crystals are recovered by filtration and recrystallized from benzene-n-hexane (1:1). By the above procedure is obtained 170 mg of 5-[4-(4-chlorobenzyloxy)benzyl]thiazolidine-2,4-dione.

reactant | 2-bromo-3-[4-(4-chlorobenzyloxy)phenyl]propionic acid | 200 mg | BrC(C(=O)O)CC1=CC=C(C=C1)OCC1=CC=C(C=C1)Cl | C16H14BrClO3
reactant | thiourea | 100 mg | NC(=S)N | CH4N2S
reactant | water | 0.5 ml | O | H2O
reactant | water | 10 ml | O | H2O
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 5-[4-(4-chlorobenzyloxy)benzyl]thiazolidine-2,4-dione | 170 mg | ClC1=CC=C(COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1 | C17H14ClNO3S
